US04497966
Preparation of 2-(2-methyl-4-nitrophenyl)-1,3-propanediol
1.2 g (8.0 mmol) 4-Nitro-o-xylene and 0.66 g (22 mmol) paraformaldehyde were added to a mixture of 1.2 g catalyst in 4 ml of dimethylsulphoxide. The catalyst had been prepared by heating for 24 hours at 500° C. a composition containing 20 g K2CO3 per 100 g gamma-alumina, i.e. 2.89 mmol K+ /g Al2O3. The reaction mixture was stirred under nitrogen at 20°-25° C. The conversion of 4-nitro-o-xylene and the selectivity during the reaction were determined by gas-liquid chromatography, whereby the alcohols were analysed via their trimethylsilyl ethers. The results are given in Table I.

reactant | 4-Nitro-o-xylene | 8.0 mmol, 1.2 g | [N+](=O)([O-])C=1C=C(C(=CC1)C)C | C8H9NO2
reactant | paraformaldehyde | 22 mmol, 0.66 g | C=O | CH2O
reactant | K2CO3 | 20 g | C(=O)([O-])[O-].[K+].[K+]
reactant | gamma-alumina | 100 g | [O-2].[O-2].[O-2].[Al+3].[Al+3]
solvent | dimethylsulphoxide | 4 ml | CS(=O)C | C2H6OS
product | 2-(2-methyl-4-nitrophenyl)-1,3-propanediol | CC1=C(C=CC(=C1)[N+](=O)[O-])C(CO)CO | C10H13NO4
